US09226501B2
(E)-2-Amino-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)benzamide
(E)-Ethyl 4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2-nitrobenzoate: 5-(1-Bromo-2,2,2-trifluoroethyl)-1,3-dichloro-2-fluorobenzene (3.5 g, 10.8 mmol), CuCl (54 mg, 0.54 mmol) and 2,2-bipyridyl (169 mg, 1.08 mmol) were added to a stirred solution of ethyl 2-nitro-4-vinylbenzoate (1.2 g, 5.42 mmol) in 1,2-dichlorobenzene (12 mL) at ambient temperature and the mixture was then stirred at 180° C. for 18 h. The reaction mixture was then cooled to ambient temperature, adsorbed on silica gel and purified by column chromatography eluting with 10% EtOAc in petroleum ether to afford the title compound (1.3 g, 53%) as a brown liquid: 1H NMR (DMSO-d6, 300 MHz) δ 8.31 (s, 1H), 8.02-7.95 (m, 1H), 7.88-7.85 (m, 3H), 7.20 (dd, J=15.9, 9.3 Hz, 1H), 6.91 (d, J=15.6 Hz, 1H), 4.91-4.85 (m, 1H), 4.34-4.27 (m, 2H), 1.27 (t, J=6.6 Hz, 3H); ESIMS m/z 463.8 ([M−H]−); IR (KBr) 3439, 2985, 1731, 1251 cm−1.

reactant | (E)-Ethyl 4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2-nitrobenzoate | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C1=CC(=C(C(=O)OCC)C=C1)[N+](=O)[O-])C(F)(F)F | C19H13Cl2F4NO4
reactant | 5-(1-Bromo-2,2,2-trifluoroethyl)-1,3-dichloro-2-fluorobenzene | 10.8 mmol, 3.5 g | BrC(C(F)(F)F)C=1C=C(C(=C(C1)Cl)F)Cl | C8H3BrCl2F4
reactant | 2,2-bipyridyl | 1.08 mmol, 169 mg | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | ethyl 2-nitro-4-vinylbenzoate | 5.42 mmol, 1.2 g | [N+](=O)([O-])C1=C(C(=O)OCC)C=CC(=C1)C=C | C11H11NO4
solvent | 1,2-dichlorobenzene | 12 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 0.54 mmol, 54 mg | Cl[Cu]
product | (E)-2-Amino-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)benzamide | 1.3 g, 53% | NC1=C(C(=O)NCC(NCC(F)(F)F)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)F)Cl | C21H16Cl2F7N3O2
